US07807709B2
(3S,4R)-3-[(Cyclopropyl-isobutoxycarbonyl-amino)-methyl]-4-({[4-ethyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (3R,4R)-3-cyclopropylaminomethyl-4-({[4-ethyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (250 mg, 0.470 mmol) in CH2Cl2 (3 mL) are added isobutylchloroformate (84 mg, 0.611 mmol) and triethylamine (85 μL, 0.611 mmol) under a N2 atmosphere. The mixture is stirred overnight at RT, diluted with CH2Cl2 and poured into an aqueous saturated solution of NaHCO3. The layers are separated and the aqueous one extracted twice with CH2Cl2. The combined organic extracts are dried over Na2SO4, filtered and concentrated. The crude residue is purified by flash chromatography on silica gel (eluent: CH2Cl2/MeOH 100:0 to 90:10) to give the title compound. MS (LC-MS): 532 [M+H-Boc]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 ml/min): 8.22 min.

reactant | (3R,4R)-3-cyclopropylaminomethyl-4-({[4-ethyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.470 mmol, 250 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C)C)C(C1=CC(=C(C=C1)CC)OCCCOC)=O)CNC1CC1 | C30H49N3O5
reactant | isobutylchloroformate | 0.611 mmol, 84 mg | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | triethylamine | 0.611 mmol, 85 μL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (3S,4R)-3-[(Cyclopropyl-isobutoxycarbonyl-amino)-methyl]-4-({[4-ethyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C)C)C(C1=CC(=C(C=C1)CC)OCCCOC)=O)CN(C(=O)OCC(C)C)C1CC1 | C35H57N3O7
